US04118587
3-(2-Oxo-1-pyrrolidinyl)-4-phenoxy-5-sulfamylbenzoic acid
The compound 3-(γ-chlorobutyrylamino)-4-phenoxy-5-sulfamylbenzoic acid (11.5 g) and anhydrous potassium carbonate (11.5 g) were slurried in dioxane (350 ml) and stirred under reflux overnight. The solvent was removed under reduced pressure and the residue taken up in a small volume of water. After acidification with 3N acqueous HC1, the product separated as a gum. Methylene chloride was added and the mixture stirred for 1 hour. The product 3-(2-oxo-1-pyrrolidinyl)-4-phenoxy-5-sulfamylbenzoic acid, now in the form of a powder, was filtered, washed with water, and air-dried to give 7.5 g (61% on two steps). A sample was recrystallized from aq. dioxane to give colorless crystals with m.p. 282°-285°; ir (Nujol) 3400, 3250, 2600 (broad), 1735, 1660, 1600, and 1575 cm-1 ; nmr (d6 -DMSO) 1.2-2.3 (m, 4H), 3.41 (t, J=6, 2H), 6.7-7.5 (m, C6H5), 7.65 (s, SO2NH2), 8.15 (d, J=2, CH), and 8.46 ppm (d, CH); mass spectrum m/e 283 (100%) and 376 (M+).

reactant | 3-(γ-chlorobutyrylamino)-4-phenoxy-5-sulfamylbenzoic acid | 11.5 g | ClCCCC(=O)NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H17ClN2O6S
reactant | potassium carbonate | 11.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 350 ml | O1CCOCC1 | C4H8O2
product | 3-(2-Oxo-1-pyrrolidinyl)-4-phenoxy-5-sulfamylbenzoic acid | O=C1N(CCC1)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H16N2O6S
